US06124354
NaH (60% dispersion in mineral oil, 72.3 mmol) was washed several times with n-hexane and suspended in DMF. A mixture of phenylacetonitrile (24.1 mmol) and de-O-p-toluene-sulfonyl-2,2-dimethyl-1,5-pentanediol (24.1 mmol) in DMF was added dropwise. The reaction mixture was stirred at 70° C. for 3 h and DMF was evaporated under reduced pressure. Excess hydride was then decomposed by the cautious addition of H2O. Extraction with Et2O, drying of the organic layer (MgSO4) and evaporation of the solvent afforded 1-phenyl-3,3-dimethylcyclohexaneacetonitrile that was chromatographed on silica using petroleumether-EtOAc 98:2 as eluent; 1H NMR (CDCl3) δ 0.96 (s, 3H), 1.26 (m, 1H), 1.31 (m, 3H) 1.59 (m, 2H), 1.78 (m, 2H), 1.92 (m, 2H), 2.23 (m, 1H), 7.49 (m, 5H). 7.0 mmol of the nitrile was refluxed with KOH (40%, 15 mL) in ethyleneglycol (40 mL) for two days. It was then allowed to cool to room temperature and was extracted with Et2O. The aqueous layer was acidified and extracted with Et2O. The organic layer was dried (MgSO4) and concentrated to provide 1.5 g (27%) of the desired carboxylic acid.

reactant | NaH | 72.3 mmol | [H-].[Na+]
reactant | phenylacetonitrile | 24.1 mmol | C1(=CC=CC=C1)CC#N | C8H7N
reactant | O-p-toluene-sulfonyl-2,2-dimethyl-1,5-pentanediol | 24.1 mmol | C1(=CC=C(C=C1)S(=O)(=O)OCC(CCCO)(C)C)C | C14H22O4S
reactant | DMF | CN(C)C=O | C3H7NO
solvent | n-hexane | CCCCCC | C6H14
product | 1-phenyl-3,3-dimethylcyclohexaneacetonitrile | C1(=CC=CC=C1)C1(CC(CCC1)(C)C)CC#N | C16H21N
